US05235091
7-(2-hydroxy-3,4,6-trimethylphenyl)-7-phenylheptanoic acid (5.0 g) was dissolved in a mixed solution of acetonitrile (25 ml), water (10 ml) and 25% aqueous ammonia (1 ml), to which 3% aqueous solution (280 ml) of potassium nitrosodisulfonate (Fremy's salt) was added. The mixture was stirred at a temperature of 2° to 4° C. for 2 hours. The reaction mixture was acidified with hydrochloric acid, followed by extraction with ethyl acetate. The ethyl acetate layer was washed with water twice. Ethyl acetate was distilled off under reduced pressure, and the residue was recrystalized from a mixed solution of acetonitrile and water (6:4) to give 7-(3,5,6-trimethyl-1,4-benzoquinone-2-yl)-7-phenylheptanoic acid (4.90 g, 94.1%) as yellow crystals.

reactant | 7-(2-hydroxy-3,4,6-trimethylphenyl)-7-phenylheptanoic acid | 5.0 g | OC1=C(C(=CC(=C1C)C)C)C(CCCCCC(=O)O)C1=CC=CC=C1 | C22H28O3
reactant | hydrochloric acid | Cl | ClH
reactant | water | 10 ml | O | H2O
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | ammonia | 1 ml | N | H3N
solvent | potassium nitrosodisulfonate | N([O])(S(=O)(=O)[O-])S(=O)(=O)[O-].[K+].[K+]
product | 7-(3,5,6-trimethyl-1,4-benzoquinone-2-yl)-7-phenylheptanoic acid | 4.90 g, 94.1% | CC1=C(C(C(=C(C1=O)C)C)=O)C(CCCCCC(=O)O)C1=CC=CC=C1 | C22H26O4
